US07081454B2
4-(3,4-Diamino-5-methyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester:
To a stirred solution of 4-(3-Amino-5-methyl-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (15 g, 44.6 mmol) in methanol (2200 mL) was added 20% Pd(OH)2/C (1.6 g) and the suspension flushed well with nitrogen, followed by hydrogen. The resulting suspension was stirred overnight at room temperature under an atmosphere of hydrogen (ca. 1 atm). The resulting suspension was filtered under nitrogen through a pad of Celite and washed with methanol (400–500 mL). The resulting material was used immediately. LCMS (M+H)+ m/z 307.

reactant | 4-(3-Amino-5-methyl-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 44.6 mmol, 15 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)C)[N+](=O)[O-])N | C16H24N4O4
solvent | methanol | 2200 mL | CO | CH4O
catalyst | Pd(OH)2/C | 1.6 g | [OH-].[OH-].[Pd+2]
product | 4-(3,4-Diamino-5-methyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)C)N)N | C16H26N4O2
